US09029361B2
Part B. Preparation of tert-butyl (8S,9aS)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate
To tert-butyl (8S,9aS)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate (495 mg, 0.291 mmol, Part A) in methanol (8 ml) was added potassium carbonate (98 mg, 0.708 mmol). The mixture was stirred at room temperature for one hour, and then concentrated. The residue was purified by chromatography on silica gel (ethyl acetate, then ethyl acetate/methanol=10:1) to give 280 mg (88% yield) of the title compound as a solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40 (s, 9H), 1.61 (m, 1H), 2.24 (m, 1H), 2.38 (m, 1H), 2.58 (m, 1H), 2.80-3.15 (m, 2H), 3.23 (dd, J=13, 4 Hz, 1H), 3.42 (dd, J=13, 4 Hz, 1H), 3.81 (m, 1H), 3.98 (m, 2H), 4.18 (m, 1H), 5.02 (t, J=4 Hz, 1H); MS (ESI) m/z 271.0 (M+H)+.

reactant | tert-butyl (8S,9aS)-8-[(4-nitrobenzoyl)oxy]-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2C[C@@H]3N(C(CCN(C3)C(=O)OC(C)(C)C)=O)C2)C=C1 | C20H25N3O7
reactant | potassium carbonate | 0.708 mmol, 98 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | methanol | 8 ml | CO | CH4O
product | tert-butyl (8S,9aS)-8-hydroxy-5-oxohexahydro-1H-pyrrolo[1,2-a][1,4]diazepine-2(3H)-carboxylate | 280 mg, 88% yield | O[C@H]1C[C@@H]2N(C(CCN(C2)C(=O)OC(C)(C)C)=O)C1 | C13H22N2O4
